US08957105B2
Method 24: Synthesis of 1-(3-chlorothiophen-2-yl)ethanone
To a solution of 3-chlorothiophene (4.80 g, 40.48 mmol) in THF (50 mL) was added BuLi (2.5N in hexane, 17.9 mL) at −30° C. After addition, the mixture was stirred for 30 min at −10° C., and then cooled to −45° C. N-methoxy-N-methyl acetamide (55.0 g, 48.8 mmol) was added and allowed to warm to room temperature during 40 min and maintained for an additional 20 min. Brine (80 mL) was added to quench the reaction, extracted with EA (60 mL×3). The combined organic layers were dried over anhydrous Na2SO4, filtered, concentrated to afford 24-1 (˜80% pure) as a yellow oil (6.80 g) which used for the next step directly.

reactant | 3-chlorothiophene | 40.48 mmol, 4.80 g | ClC1=CSC=C1 | C4H3ClS
reactant | BuLi | 2.5N, 17.9 mL | [Li]CCCC
reactant | N-methoxy-N-methyl acetamide | 48.8 mmol, 55.0 g | CON(C(C)=O)C | C4H9NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Brine | 80 mL | [Cl-].[Na+].O
product | 1-(3-chlorothiophen-2-yl)ethanone | 6.80 g | ClC1=C(SC=C1)C(C)=O | C6H5ClOS
